US05434154
To a suspension of 25.9 g (113 mmol, 1.0 equiv.) of N-[(4-nitrophenyl)methyl]methanesulfonamide in 113 mL of 1N HCl (113 mmol, 1.0 equiv.), 113 mL of water and 225 mL of ethanol was added 5.18 g of 10% palladium on carbon. This mixture was hydrogenated in a Parr apparatus at 60 psi for sixteen hours. The mixture was filtered through Celite. The ethanol was removed in vacuo and the pH adjusted to 9, at which point the product had precipitated. The precipitate was isolated by filtration and dried in vacuo to yield 18.0 g (80%) of N-[(4-aminophenyl)methyl]-methanesulfonamide.

reactant | N-[(4-nitrophenyl)methyl]methanesulfonamide | 113 mmol, 25.9 g, 1.0 equiv. | [N+](=O)([O-])C1=CC=C(C=C1)CNS(=O)(=O)C | C8H10N2O4S
reactant | HCl | 113 mmol, 1N, 113 mL, 1.0 equiv. | Cl | ClH
solvent | water | 113 mL | O | H2O
solvent | ethanol | 225 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 5.18 g | [Pd] | Pd
product | N-[(4-aminophenyl)methyl]-methanesulfonamide | 18.0 g, 80% | NC1=CC=C(C=C1)CNS(=O)(=O)C | C8H12N2O2S
